* SPICE3 file created from sr_latch.ext - technology: sky130A

.subckt sky130_fd_pr__nfet_MJHEWA D S G VSUBS
X0 S G D VSUBS sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=0.15
C0 S D 0.16211f
C1 G D 0.01549f
C2 G S 0.01549f
C3 S VSUBS 0.11555f
C4 D VSUBS 0.11555f
C5 G VSUBS 0.20353f
.ends

.subckt sky130_fd_pr__pfet_01v8_H3PEXU_abut1 D G a_15_n164# w_n109_n264# VSUBS
X0 a_15_n164# G D w_n109_n264# sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=0.15
C0 w_n109_n264# D 0.01509f
C1 G a_15_n164# 0.00372f
C2 w_n109_n264# G 0.06468f
C3 D a_15_n164# 0.01112f
C4 D G 0.01942f
C5 D VSUBS 0.32871f
C6 G VSUBS 0.14354f
C7 w_n109_n264# VSUBS 0.36755f
.ends

.subckt sky130_fd_pr__nfet_MJHEWA_abut1 S G a_n73_n131# VSUBS
X0 S G a_n73_n131# VSUBS sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=0.15
C0 S G 0.01549f
C1 a_n73_n131# G 0.00268f
C2 a_n73_n131# S 0.00603f
C3 S VSUBS 0.18775f
C4 G VSUBS 0.20527f
.ends

.subckt sky130_fd_pr__pfet_01v8_H3PEXU_abut2 S G a_n73_n164# w_n109_n264# VSUBS
X0 S G a_n73_n164# w_n109_n264# sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=0.15
C0 w_n109_n264# S 0.01509f
C1 G a_n73_n164# 0.00372f
C2 w_n109_n264# G 0.06468f
C3 S a_n73_n164# 0.01112f
C4 S G 0.01942f
C5 S VSUBS 0.32871f
C6 G VSUBS 0.14354f
C7 w_n109_n264# VSUBS 0.36755f
.ends

.subckt sr_latch VDD VSS R S NEG POS
Xsky130_fd_pr__nfet_MJHEWA_0 VSS POS S VSS sky130_fd_pr__nfet_MJHEWA
Xsky130_fd_pr__nfet_MJHEWA_1 VSS NEG POS VSS sky130_fd_pr__nfet_MJHEWA
Xsky130_fd_pr__pfet_01v8_H3PEXU_abut1_0 VDD S sky130_fd_pr__pfet_01v8_H3PEXU_abut1_0/a_15_n164#
+ VDD VSS sky130_fd_pr__pfet_01v8_H3PEXU_abut1
Xsky130_fd_pr__pfet_01v8_H3PEXU_abut1_1 NEG POS sky130_fd_pr__pfet_01v8_H3PEXU_abut1_1/a_15_n164#
+ VDD VSS sky130_fd_pr__pfet_01v8_H3PEXU_abut1
Xsky130_fd_pr__nfet_MJHEWA_abut1_0 VSS NEG POS VSS sky130_fd_pr__nfet_MJHEWA_abut1
Xsky130_fd_pr__nfet_MJHEWA_abut1_1 VSS R NEG VSS sky130_fd_pr__nfet_MJHEWA_abut1
Xsky130_fd_pr__pfet_01v8_H3PEXU_abut2_0 POS NEG sky130_fd_pr__pfet_01v8_H3PEXU_abut1_0/a_15_n164#
+ VDD VSS sky130_fd_pr__pfet_01v8_H3PEXU_abut2
Xsky130_fd_pr__pfet_01v8_H3PEXU_abut2_1 VDD R sky130_fd_pr__pfet_01v8_H3PEXU_abut1_1/a_15_n164#
+ VDD VSS sky130_fd_pr__pfet_01v8_H3PEXU_abut2
C0 POS S 0.06253f
C1 VDD R 0.17197f
C2 NEG S 0.23127f
C3 POS sky130_fd_pr__pfet_01v8_H3PEXU_abut1_0/a_15_n164# 0.01015f
C4 sky130_fd_pr__pfet_01v8_H3PEXU_abut1_1/a_15_n164# POS 0.00601f
C5 POS NEG 1.03761f
C6 sky130_fd_pr__pfet_01v8_H3PEXU_abut1_1/a_15_n164# NEG 0.00526f
C7 VDD S 0.17233f
C8 POS R 0.30062f
C9 NEG R 0.09808f
C10 VDD sky130_fd_pr__pfet_01v8_H3PEXU_abut1_0/a_15_n164# 0.01058f
C11 VDD POS 0.36421f
C12 VDD sky130_fd_pr__pfet_01v8_H3PEXU_abut1_1/a_15_n164# 0.01058f
C13 VDD NEG 0.30409f
C14 R VSS 0.33923f
C15 VDD VSS 3.3794f
C16 POS VSS 0.5916f
C17 NEG VSS 0.62754f
C18 S VSS 0.33754f
.ends

