** sch_path: /home/zhixuan/projects/fyp_vco/schem/temp_full_tb.sch
**.subckt temp_full_tb
vdd net1 GND 1.8
C2 VDD GND 10n m=1
R8 VDD net1 5 m=1
vctrl net2 GND 0.85
x2 VDD GND VOUT net2 vco_pex
**** begin user architecture code


.include /home/zhixuan/projects/fyp_vco/magic/full/vco_pex.spice
.lib /usr/local/share/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt

.temp TEMP_PLACEHOLDER

.tran 0.1n 2u
.save all

.control
    run

    meas tran t11 when VOUT=0.9 rise=2
    meas tran t21 when VOUT=0.9 rise=3

    if t11 > 0 and t21 > t11
        let period1 = t21 - t11
        let freq1 = 1 / period1
        meas tran idd1 avg i(vdd) from=t11 to=2u
        let idd1 = abs(idd1)
        echo RESULT freq1 $&freq1 idd1 $&idd1
    else
        echo RESULT FAILED
    end

.endc

.end


**** end user architecture code
**.ends
.GLOBAL GND
.end
